US08975254B2
e) 4-(5-(2-aminoethyl)isoxazol-3-yl)-2-chloro-3-methylbenzonitrile
tert-Butyl (2-(3-(3-chloro-4-cyano-2-methylphenyl)isoxazol-5-yl)ethyl)-carbamate (0.56 g, 1.55 mmol) was dissolved to DCM (20 ml). To this mixture was added TFA (1.15 ml) and stirred at RT overnight. The reaction mixture was evaporated to dryness and dissolved to diethyl ether. 1 M HCl in diethyl ether solution was added and the mixture was stirred at RT for 2 h. The HCl salt of the title compound (0.20 g) was filtered and dried. 1H-NMR (400 MHz; d6-DMSO): δ 2.50 (s, 3H), 2.92 (m, 2H), 3.22 (m, 2H), 6.88 (s, 1H), 7.65 (d, 1H), 7.98 (d, 1H), 8.23 (bs, 3H).

reactant | tert-Butyl (2-(3-(3-chloro-4-cyano-2-methylphenyl)isoxazol-5-yl)ethyl)-carbamate | 1.55 mmol, 0.56 g | ClC=1C(=C(C=CC1C#N)C1=NOC(=C1)CCNC(OC(C)(C)C)=O)C | C18H20ClN3O3
reactant | TFA | 1.15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-(2-aminoethyl)isoxazol-3-yl)-2-chloro-3-methylbenzonitrile | NCCC1=CC(=NO1)C1=C(C(=C(C#N)C=C1)Cl)C | C13H12ClN3O
